US06927214B1
2-[6,7-Dichloro-3-(methylsulfonyl)-2-quinoxalinyl]-4-phenylsemicarbazide
To a solution of 3,6,7-trichloro-2-(methylsulfonyl)quinoxaline (312 mg, 1.0 mmol) in DMF (10 ml) was added caesium carbonate (489 mg, 1.5 mmol) followed by 4-phenylsemicarbazide (182 mg, 1.2 mmol). The reaction was stirred overnight at room temperature. The product was purified by flash column chromatography using ethyl acetate:hexane 1:1 obtaining the title compound as a solid.

reactant | 3,6,7-trichloro-2-(methylsulfonyl)quinoxaline | 1.0 mmol, 312 mg | ClC=1C(=NC2=CC(=C(C=C2N1)Cl)Cl)S(=O)(=O)C | C9H5Cl3N2O2S
reactant | caesium carbonate | 1.5 mmol, 489 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-phenylsemicarbazide | 1.2 mmol, 182 mg | C1(=CC=CC=C1)NC(NN)=O | C7H9N3O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-[6,7-Dichloro-3-(methylsulfonyl)-2-quinoxalinyl]-4-phenylsemicarbazide | ClC=1C=C2N=C(C(=NC2=CC1Cl)N(N)C(=O)NC1=CC=CC=C1)S(=O)(=O)C | C16H13Cl2N5O3S
